US07582719B1
Dimethyl 4-hydroxy-5-nitroisophthalate
Into a 250 mL three-necked round-bottom flask equipped with a magnetic stirrer, a condenser, and nitrogen inlet, dimethyl 4-hydroxyisophthalate (15.0 g, 71.4 mmol) was dissolved in acetic acid (150 mL). Nitric acid (10 ml) was then added dropwise. The mixture was warmed at 60° C. for 12 h. Then, the cool mixture was poured into water. The light yellow precipitate was collected, air-dried and recrystallized from ethanol to give 16.0 g (88% yield) of light yellow crystals: mp=74-76° C. Anal. Calcd. for C10H9NO7: C, 47.07%; H, 3.55%; N, 5.49%; O, 43.89%. Found: C, 47.75%; H, 4.01%; N, 5.44%; O, 43.51%: FT-IR (KBr, cm−1): 3076, 2992, 1722, 1690. Mass spectrum (m/e): 255 (M+, 100% relative abundance), 241, 237. 1H-NMR (DMSO-d6, ppm) δ 3.89 (s, 3H, CH3), 3.97 (s, 3H, CH3), 8.46-8.47 (d, 1H, Ar), 8.55-8.56 (d, 1H, Ar). 13C-NMR (CDCl3, ppm) δ 52.72, 53.38, 117.60, 120.19, 130.61, 135.31, 138.50, 156.13, 163.70, 166.87.

reactant | dimethyl 4-hydroxyisophthalate | 71.4 mmol, 15.0 g | OC1=C(C=C(C(=O)OC)C=C1)C(=O)OC | C10H10O5
reactant | Nitric acid | 10 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
reactant | KBr | [K+].[Br-]
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | Dimethyl 4-hydroxy-5-nitroisophthalate | 88% yield | OC1=C(C=C(C(=O)OC)C=C1[N+](=O)[O-])C(=O)OC | C10H9NO7
